US05238962
23 ml (0.17 mol) of triethylamine are added dropwise at 0° to a suspension of 23.5 g (0.15 mol) of 4-chlorobenzoic acid and 15 ml (0.16 mol) of ethyl chloroformate in 200 ml of chloroform. After completion of the addition (0.5 hour), the solution obtained is added dropwise at 0° to a solution of 50 ml (0.75 mol) of ethylenediamine in 100 ml of chloroform. After completion of the reaction, 115 ml of concentrated hydrochloric acid are added dropwise at 0°. The acidic mixture is filtered and the neutral constituents remaining are removed by extraction with chloroform. The aqueous phase is then made alkaline with sodium hydroxide solution and extracted several times with chloroform. The chloroform extracts are dried and concentrated. The residue is converted into the hydrochloride which is recrystallized from ethanol/ether. There are obtained 15.1 g of N-(2-aminoethyl)-4-chlorobenzamide hydrochloride, m.p. 212°-214°. The free base melts at 43°-45°.

reactant | triethylamine | 0.17 mol, 23 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoic acid | 0.15 mol, 23.5 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | ethyl chloroformate | 0.16 mol, 15 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethylenediamine | 0.75 mol, 50 ml | C(CN)N | C2H8N2
reactant | hydrochloric acid | 115 ml | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-aminoethyl)-4-chlorobenzamide hydrochloride | 15.1 g | Cl.NCCNC(C1=CC=C(C=C1)Cl)=O | InChI=1S/C9H11ClN2O.ClH/c10-8-3-1-7(2-4-8)9(13)12-6-5-11;/h1-4H,5-6,11H2,(H,12,13);1H
